US09126981B2
Synthesis of 4-Bromomethyl-2-bis(tert-butoxycarbonyl)aminobenzothiazole (Compound XX-1)
To a solution of 2-(bis(tert-butoxycarbonyl)amino)-4-methylbenzothiazole (1.09 g, 3.00 mmol) in carbon tetrachloride (15 ml) were added N-bromosuccinimide (694 mg, 3.90 mmol) and 2,2′-azobis(isobutyronitrile) (99 mg, 0.20 mmol) and the mixture was stirred under nitrogen atmosphere at 80° C. for 2 hr. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The crude residue was subjected to column chromatography (eluent: n-hexane:chloroform=60:40 to 50:50) to obtain the title compound (1.26 g, 95%).

reactant | 2-(bis(tert-butoxycarbonyl)amino)-4-methylbenzothiazole | 3.00 mmol, 1.09 g | C(C)(C)(C)OC(=O)N(C=1SC2=C(N1)C(=CC=C2)C)C(=O)OC(C)(C)C | C18H24N2O4S
reactant | N-bromosuccinimide | 3.90 mmol, 694 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 0.20 mmol, 99 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-2-bis(tert-butoxycarbonyl)aminobenzothiazole | 1.26 g, 95% | BrCC1=CC=CC2=C1N=C(S2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H23BrN2O4S
